US05017573
Preparation of N-[1-(3-methylbenzyl)4-methylhexahydro-1H-1,4-diazepin-6-yl]-1H-indazole-3-carboxamide:
A solution of 6-acetylamino-1-(3-methylbenzyl)-4-methyl-hexahydro-1H-1,4-diazepine (0.9 g) in 10% hydrochloric acid (20 ml) is refluxed with stirring for 2 hours. After cooling, the reaction mixture is basified with 48% aqueous sodium hydroxide solution and extracted with chloroform. The organic layer is washed with water and dried over magnesium sulfate. The solvent is evaporated under reduced pressure to give an oil. A mixture of this oil, 1H-indazole-3-carboxylic acid (530 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (630 mg) and dichloromethane (20 ml) is stirred at 25° C. for 2 hours. The reaction mixture is washed successively with water and 10% aqueous sodium hydroxide solution, dried over magnesium sulfate, and evaporated under reduced pressure. The residue is chromatographed on silica gel with elution of acetone. Fractions containing the title compound are pooled and evaporated under reduced pressure to give the title compound (0.4 g) as an oil.

reactant | 6-acetylamino-1-(3-methylbenzyl)-4-methyl-hexahydro-1H-1,4-diazepine | 0.9 g | C(C)(=O)NC1CN(CCN(C1)CC1=CC(=CC=C1)C)C | C16H25N3O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 1H-indazole-3-carboxylic acid | 530 mg | N1N=C(C2=CC=CC=C12)C(=O)O | C8H6N2O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 630 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | hydrochloric acid | 20 ml | Cl | ClH
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-[1-(3-methylbenzyl)4-methylhexahydro-1H-1,4-diazepin-6-yl]-1H-indazole-3-carboxamide | 0.4 g | CC=1C=C(CN2CCN(CC(C2)NC(=O)C2=NNC3=CC=CC=C23)C)C=CC1 | C22H27N5O
